US07312241B2
n-Butyl lithium (2.5 M, 3.7 mL) was added to s stirred solution of 3,5-dimethoxy-bromobenzene (2.0 g, 9.2 mmol) in THF (15 mL) at −65° C. After stirring for 30 min, a solution of 3,4-bis-difluoromethoxy-benzaldehyde (2.0 g, 8.4 mmol) in THF (15 mL) was added slowly. The resulting mixture was stirred at −65° C. for 6 h and then quenched with isopropanol (5 mL). Water (40 mL) was added and the mixture was extracted with ether (3×60 mL). The combined organic layers were washed with water (2×40 mL), brine (40 mL), and dried (MgSO4). Solvent was removed and the residue was purified by flash chromatography (Silica gel, Hexane:EtOAc 7:3) to afford (3,4-bis-difluoromethoxy-phenyl)-(3,5-dimethoxy-phenyl)-methanol (1.3 g, 42%): 1H NMR (CDCl3) δ 7.32 (m, 1H), 7.19 (m, 2H), 6.86-6.19 (m 5H), 5.69 (d, J=2 Hz, 1H), 3.76 (s, 6H), 2.47 (d, J=2 Hz, 1H).

reactant | n-Butyl lithium | 2.5 M, 3.7 mL | C(CCC)[Li]
reactant | 3,5-dimethoxy-bromobenzene | 9.2 mmol, 2.0 g | COC=1C=C(C=C(C1)OC)Br | C8H9BrO2
reactant | 3,4-bis-difluoromethoxy-benzaldehyde | 8.4 mmol, 2.0 g | FC(OC=1C=C(C=O)C=CC1OC(F)F)F | C9H6F4O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (3,4-bis-difluoromethoxy-phenyl)-(3,5-dimethoxy-phenyl)-methanol | 1.3 g, 42% | FC(OC=1C=C(C=CC1OC(F)F)C(O)C1=CC(=CC(=C1)OC)OC)F | C17H16F4O5
